US07560558B2
Compound 76: {2-[(6,7-Dimethoxy-4-quinolyl)oxy]-4,5-dimethylphenyl}-(phenyl)methanone hydrochloride
(4,5-Dimethyl-2-methoxyphenyl)(phenyl)methanone (650 mg) was dissolved in dimethylformamide (10 ml) to prepare a solution. Sodium thiomethoxide (379 mg) was added to the solution, and the mixture was stirred while heating under reflux overnight. The reaction solution was cooled to room temperature, water was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, was dried over sodium sulfate and was concentrated. The residue was subjected to separation and purification by column chromatography on silica gel using hexane/ethyl acetate as a solvent to give (4,5-dimethyl-2-hydroxy-phenyl)(phenyl)methanone. The (4,5-dimethyl-2-hydroxy-phenyl)(phenyl)methanone (40 mg) thus obtained and 4-chloro-6,7-dimethoxyquinoline (150 mg) were added to o-dichlorobenzene (0.2 ml), and the mixture was heated at 180° C. for two days. The reaction solution was concentrated and was subjected to separation and purification by column chromatography on silica gel using hexane-ethyl acetate. Subsequently, a hydrochloric acid-methanol mixed solution was added thereto, the solvent was removed by distillation, and the residue was suspended in ethyl acetate. The solid thus obtained was collected by filtration, was washed with ethyl acetate, and was then dried to give the title compound (9.2 mg, yield 11%).

reactant | (4,5-dimethyl-2-hydroxy-phenyl)(phenyl)methanone | 40 mg | CC1=CC(=C(C=C1C)C(=O)C1=CC=CC=C1)O | C15H14O2
reactant | 4-chloro-6,7-dimethoxyquinoline | 150 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
solvent | o-dichlorobenzene | 0.2 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | {2-[(6,7-Dimethoxy-4-quinolyl)oxy]-4,5-dimethylphenyl}-(phenyl)methanone hydrochloride | 9.2 mg, yield 11% | Cl.COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C(=C1)C)C)C(=O)C1=CC=CC=C1 | InChI=1S/C26H23NO4.ClH/c1-16-12-20(26(28)18-8-6-5-7-9-18)23(13-17(16)2)31-22-10-11-27-21-15-25(30-4)24(29-3)14-19(21)22;/h5-15H,1-4H3;1H
